US06218501B1
Maleic anhydride polymer (product of Polyscience Co.) and aminophenol were put respectively in amounts of 5 g together with 100 mL of xylene into a 3-neck round flask into which nitrogen had been filled. Then an agitation was carried out for 30 minutes at the room temperature. Then 2.9 g of isoquinoline was put, and the temperature was raised slowly up to 150 degrees C., so that a reaction would occur. Thus the reaction was carried out for 3 hours while the formed water was slowly discharged. Then the reaction was terminated, and the temperature was lowered to the room temperature. Then the solution was put into 500 mL of methanol to capture the precipitate. Then the precipitate was filtered, and was vacuum-dried at 100 degrees C., thereby obtaining polyhydroxy phenylmaleimide.

reactant | Maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | isoquinoline | 2.9 g | C1=NC=CC2=CC=CC=C12 | C9H7N
solvent | water | O | H2O
product | phenylmaleimide | C1(=CC=CC=C1)C=1C(=O)NC(C1)=O | C10H7NO2
